US04985584
Preparation of 2-propyl-3-ethyloxetane (CXXIII)
This compound was prepared after the method of Moulines et al, Synthesis, (1981), 550. 18 g 2-ethylhexa e-1, 3-diol (Aldrich Chemical Co.) was dissolved in dry THF (350 ml) and the solution was chilled to -3° C. (ice-salt bath). n-Butyllithium solution (1.6M in hexane, 94 ml, 0.15 mol) was added dropwise with stirring over 45 minutes (temperature 5°±5° C.). Stirring was continued for a further 1 hour at room temperature, then p-toluenesulphonyl chloride (28.6 g, 0.15 mol) in dry THF (75 ml) was added dropwise over 45 minutes with cooling in an ice-bath. After a further period of stirring of 1 hour a second portion of n-butyl lithium (94 ml) was added over 30 minutes at 5°-10° C. (ice-bath cooling), and the mixture was stirred overnight at room temperature. Finally, the mixture was heated at 60°-65° C. for 2.5 hours (thick white suspension forms), prior to concentration in vacuo, addition of water (750 ml) and continuous extraction with ether for 4 hours. After removal of the ether the resulting pale yellow oil was distilled to give 5.25 g (33%) of (CXXIII), bp 70.4°-71.8° C./100 mbar.

reactant | e-1, 3-diol | 18 g | [2H]C([2H])([2H])C([C@@H](C)/C=C/[C@@H](C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C)(C([2H])([2H])[2H])O | C28H44O3
reactant | n-Butyllithium | 0.15 mol, 1.6M, 94 ml | C(CCC)[Li]
reactant | p-toluenesulphonyl chloride | 0.15 mol, 28.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | n-butyl lithium | 94 ml | C(CCC)[Li]
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-propyl-3-ethyloxetane | C(CC)C1OCC1CC | C8H16O
